*
.SUBCKT BSP15 1 2 3 
* housing parasitics
LB 2 22 4.13E-09
LE 3 333 3.77E-09 
LC 1 11 0.41E-09 
CBCG 22 11 1.76E-13 
CBEG 22 333 8.6E-14 
CCEG 11 333 1.76E-14 
Q1 11 22 333 QBSP15 AREA = 1 
D1 11 22 DIODE 
*
* The diode does not reflect a physical
* device but improves only modeling
* in the reverse mode of operation
*
.MODEL QBSP15 PNP 
+ IS = 1.668E-14 
+ NF = 0.9925 
+ ISE = 1.187E-14 
+ NE = 1.45 
+ BF = 72.69 
+ IKF = 1.02 
+ VAF = 300 
+ NR = 1.001 
+ ISC = 3.8E-15 
+ NC = 1.515 
+ BR = 4.032 
+ IKR = 0.02433 
+ VAR = 50 
+ RB = 20 
+ IRB = 1E-06 
+ RBM = 0.01 
+ RE = 0.55 
+ RC = 0.4707 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.812E-11 
+ VJE = 0.6708 
+ MJE = 0.3409 
+ TF = 1.5E-09 
+ XTF = 22 
+ VTF = 4 
+ ITF = 0.19 
+ PTF = 0 
+ CJC = 1.486E-11 
+ VJC = 0.9514 
+ MJC = 0.4793 
+ XCJC = 1 
+ TR = 5E-07 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.949 
*
.MODEL DIODE D 
+ IS = 2.441E-13 
+ N = 1.027 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 220 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.ENDS
*
